US07776869B2
4-Chloro-3-iodobenzoylchloride was prepared from 4-chloro-3-iodobenzoic acid according to the procedure described in Example 183 for the synthesis of 3-bromo-4-fluorobenzoyl chloride.

reactant | 4-chloro-3-iodobenzoic acid | ClC1=C(C=C(C(=O)O)C=C1)I | C7H4ClIO2
reactant | 3-bromo-4-fluorobenzoyl chloride | BrC=1C=C(C(=O)Cl)C=CC1F | C7H3BrClFO
product | 4-Chloro-3-iodobenzoylchloride | ClC1=C(C=C(C(=O)Cl)C=C1)I | C7H3Cl2IO
